US09084794B2
a) 7-bromo-8-fluoroquinoline
A 500 mL round bottom flask equipped with a stirbar and air-condenser was charged with 3-bromo-2-fluoroaniline (10.00 g, 52.6 mmol), sodium 3-nitrobenzenesulfonate (21.13 g, 94 mmol), and propane-1,2,3-triol (glycerol) (13.57 g, 147 mmol). The mixture was taken up in water (11.38 mL), carefully treated with conc. sulfuric acid (21.06 mL), and then heated to 150° C. with stirring for 2 h. The reaction was then cooled to room temperature and the flask fitted with an ice bath. The reaction mixture was carefully neutralized with 5N aq sodium hydroxide (˜180 mL). The mixture was then allowed to stir for 20 min, checked for neutral pH, and then diluted with dichloromethane (1000 mL). The entire mixture was transferred to a separatory funnel and the resulting emulsion was treated with ˜200 mL saturated brine and allowed to stand overnight to separate the layers. The organic layer was isolated and the aqueous layer was extracted with an additional quantity of dichloromethane (˜400 mL). The organics were then pooled, washed with 400 mL 1N aq sodium hydroxide solution, dried over sodium sulfate, filtered, and concentrated to a residue. The residue solidified under high vacuum to afford the title compound as a dark brown solid (9.16 g, 75% yield). MS(ES)+ m/e 225.9, 227.8 [M+H]+.

reactant | 3-bromo-2-fluoroaniline | 52.6 mmol, 10.00 g | BrC=1C(=C(N)C=CC1)F | C6H5BrFN
reactant | sodium 3-nitrobenzenesulfonate | 94 mmol, 21.13 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | propane-1,2,3-triol | 147 mmol, 13.57 g | C(C(CO)O)O | C3H8O3
reactant | sulfuric acid | 21.06 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 5N, ˜180 mL | [OH-].[Na+]
solvent | water | 11.38 mL | O | H2O
solvent | dichloromethane | 1000 mL | ClCCl | CH2Cl2
solvent | brine | ˜200 mL | [Cl-].[Na+].O
product | 7-bromo-8-fluoroquinoline | 9.16 g, 75% yield | BrC1=CC=C2C=CC=NC2=C1F | C9H5BrFN
